US20010016207A1
B. 4-(4-Ethyl-piperazin-1-yl)-benzoic acid hydrochlorid
4-(4-Ethyl-piperazin-1-yl)-benzoic acid methyl ester (15 mmol) is dissolved in 4N HCl (35 ml) and heated under reflux for 8 hours. The mixture is cooled in an ice bath to 0-4° C. and the solid material formed is filtered off, washed with acetone and dried (vacuum). A grey powder with mp. >270° C., Rf=0.08 (CH2Cl2/MeOH=9:1) is obtained.

reactant | 4-(4-Ethyl-piperazin-1-yl)-benzoic acid methyl ester | 15 mmol | COC(C1=CC=C(C=C1)N1CCN(CC1)CC)=O | C14H20N2O2
reactant | HCl | 4N, 35 ml | Cl | ClH
product | 4-(4-Ethyl-piperazin-1-yl)-benzoic acid hydrochlorid | Cl.C(C)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C13H18N2O2.ClH/c1-2-14-7-9-15(10-8-14)12-5-3-11(4-6-12)13(16)17;/h3-6H,2,7-10H2,1H3,(H,16,17);1H
